US04404138
3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9,10-trimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one hydrochloride
Prepared by the method described in Example 13 from 1,2,3,4-tetrahydro-8,9,10-trimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one hydrochloride (10.0 g, 0.031 moles), triethylamine (6.8 g, 0.067 moles), and 3-(2-chloroethyl)-3-azabicyclo[3.2.2]nonane hydrochloride (7.5 g, 0.034 moles). The crude product began to precipitate as the monohydrochloride shortly after reflux of the reaction mixture began. The product is filtered and recrystallized several times from 2-methoxyethanol/water to yield the final product (5.5 g) as the monohydrochloride, mp 241°-243° C.

reactant | 1,2,3,4-tetrahydro-8,9,10-trimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one hydrochloride | 0.031 moles, 10.0 g | Cl.COC1=CC2=C(C(=C1OC)OC)C1=C(CNCC1)C(O2)=O
reactant | triethylamine | 0.067 moles, 6.8 g | C(C)N(CC)CC | C6H15N
reactant | 3-(2-chloroethyl)-3-azabicyclo[3.2.2]nonane hydrochloride | 0.034 moles, 7.5 g | Cl.ClCCN1CC2CCC(C1)CC2
product | 3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9,10-trimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one hydrochloride | 5.5 g | Cl.C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C(=C2OC)OC)OC | InChI=1S/C25H34N2O5.ClH/c1-29-21-12-20-22(24(31-3)23(21)30-2)18-8-9-26(15-19(18)25(28)32-20)10-11-27-13-16-4-5-17(14-27)7-6-16;/h12,16-17H,4-11,13-15H2,1-3H3;1H
